2182-03-23 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - dccv
   - gi: MRCP, GGT, AMA, SPEP, ACE level
   - started metoprolol 12.5 for diastolic dysfunction
   - GPC from [**3-21**]; LIJ, started vancomycin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2182-3-22**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-3-23**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 81 (72 - 135) bpm
   BP: 126/46(64) {70/37(45) - 158/102(98)} mmHg
   RR: 22 (8 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.3 kg (admission): 81.4 kg
             Total In:
                                                                  2,709 mL
                                                                     92 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                  2,679 mL
                                                                     92 mL
   Blood products:
   Total out:
                                                                     50 mL
                                                                      0 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,659 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: neck supple
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender: mild
   LUQ ttp, and mild RUQ ttp, no rebound, no guarding
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Cool, No(t) Rash: , No(t) Jaundice, left heel with chronic skin
   changes
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   230 K/uL
   12.6 g/dL
   178 mg/dL
   6.5 mg/dL
   26 mEq/L
   4.2 mEq/L
   59 mg/dL
   98 mEq/L
   142 mEq/L
   39.7 %
   9.1 K/uL
        [image002.jpg]
                             [**2182-3-21**]  02:54 PM
                             [**2182-3-22**]  05:15 AM
   WBC
   9.1
   Hct
   39.7
   Plt
   230
   Cr
   5.1
   6.5
   Glucose
   114
   178
   Other labs: PT / PTT / INR:14.2/41.9/1.2, ALT / AST:41/45, Alk Phos / T
   Bili:189/0.4, Amylase / Lipase:45/, Lactic Acid:1.5 mmol/L, Ca++:9.2
   mg/dL, Mg++:2.0 mg/dL, PO4:7.9 mg/dL
   Assessment and Plan
   Patient is a 53 y/o F w/ h/o ESRD, HTN, DM, and prior PE who p/w new a.
   flutter.
   # Atrial Flutter: Rhy control with DCCV. In sinus since.
   -anticoagulation on aspirin 81mg QD , low risk for stroke, can continue
   with aspirin only as patient has history of GI bleed
   # Abd Pain/Nausea/Vomiting: Most likely pancreatitis as pain is more
   epigastric/substernal and right sided in the back.
   - Pt had dark stools this AM, with 9 point Hct drop, will repeat
   - MRCP to look for stones
   - f/u culture data
   - follow up GI recs
   #  Bacteremia: LIJ
 GPC most likely contamination. Surveillance cx.
   - Follow cultures
   - Monitor for fever or leukocytosis, if develops will start vancomycin
   # CAD: No known CAD, but with CAD equivalent.
   - medical management with aspirin, statin, beta blocker
   # Chronic diastolic heart failure:  EF 60%.
   - Continue beta blocker.
   - restart ACE today
   # Chronic Pain: Continue methatdone TID, dilaudid PRN.
   # ESRD: continue M/W/F HD.
   - Renal aware, appreciate renal input
   - HD in AM.
   # DM2: Continue glargine qhs, and ISS.
   - goal FSG < 200.
   # FEN: Replete lytes prn
   # Access:  L-IJ, tunnelled HD line
   # PPx:  heparin gtt, bowel regimen prn
   # Emergency contact: Mother
   # [**Name2 (NI) 66**]:  Presumed full
   # Dispo: Pending resolution of above
   ICU Care
   Nutrition:  NPO until repeat Hct returns
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2182-3-21**] 10:00 AM
   Multi Lumen - [**2182-3-21**] 12:00 PM
   Prophylaxis:
   DVT:  heparin gtt transition to heparin SC TID
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full Code
   Disposition:  CCU, likely call out later
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined on CCU rounds.  I
   agree with Dr. [**Last Name (STitle) 7233**]
s H+P, A+P.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4345**], MD
   on:[**2182-3-23**] 12:15 ------